US07838524B2
N-(3-tert-Butyl-1-{3-[[(dimethylamino)sulfonyl](3-hydroxypropyl)amino]phenyl}-1H-pyrazol-5-yl)-N′-[4-(pyridin-4-yloxy)phenyl]urea
A solution of 1-{5-tert-butyl-2-[3-(3-hydroxy-propylamino)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-4-yloxy)-phenyl]-urea (100 mg, 0.21 mmol) in THF (1 mL) was treated with dimethylsulfamoyl chloride (90 mg, 0.62 mmol, 3 eq) followed by DIEA (30 mg, 0.21 mmol, 1 eq). The reaction mixture was stirred at 40° C. overnight. The mixture was evaporated at reduced pressure, and the product was isolated by MPLC (eluting with 1% to 4% MeOH in DCM) to afford 57 mg (46%) of desired product. 1H-NMR (DMSO-d6) δ 9.08 (s, 1H), 8.40-8.38 (m, 3H), 7.54-7.36 (m, 6H), 7.05 (d, J=8.9 Hz, 2H), 6.84 (d, J=5.6 Hz, 2H), 6.32 (s, 1H), 4.45 (t, J=4.6 Hz, 1H), 3.64 (t, J=7.0 Hz, 2H), 3.33-3.28 (m, 2H), 2.70 (s, 6H), 1.49-1.45 (m, 2H), 1.29 (s, 9H); MS LC-MS [M+H]+=608.2, RT=2.45 min.

reactant | 1-{5-tert-butyl-2-[3-(3-hydroxy-propylamino)-phenyl]-2H-pyrazol-3-yl}-3-[4-(pyridin-4-yloxy)-phenyl]-urea | 0.21 mmol, 100 mg | C(C)(C)(C)C=1C=C(N(N1)C1=CC(=CC=C1)NCCCO)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1 | C28H32N6O3
reactant | dimethylsulfamoyl chloride | 0.62 mmol, 90 mg, 3 eq | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | DIEA | 0.21 mmol, 30 mg, 1 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-(3-tert-Butyl-1-{3-[[(dimethylamino)sulfonyl](3-hydroxypropyl)amino]phenyl}-1H-pyrazol-5-yl)-N′-[4-(pyridin-4-yloxy)phenyl]urea | 57 mg, 46% | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=C1)C1=CC(=CC=C1)N(CCCO)S(=O)(=O)N(C)C | C30H37N7O5S
